US09428510B2
5-(3,5-difluorophenylthio)-N-(4-(4-methylpiperazin-1-yl)benzyl)-1H-pyrazolo[3,4-b]pyridin-3-amine
41.5 μl of trifluoroacetic acid (0.539 mmol) and, in small fractions, 129 mg (0.611 mmol) of sodium triacetoxyborohydride are added to a solution of 100 mg (0.35 mmol) of 5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-amine and 81 mg (0.395 mmol) of 4-(4-methylpiperazin-1-yl)benzaldehyde in 20 ml of a 1:1 mixture of dichloromethane and tetrahydrofuran. The reaction medium is stirred for 16 hours at room temperature. An additional fraction of 125 μl of trifluoroacetic acid and 388 mg of sodium triacetoxyborohydride are added and the reaction medium is stirred for an additional 24 hours. The solvent is then concentrated and the reaction medium extracted with ethyl acetate and washed using saturated sodium bicarbonate solution. The organic phases are combined, dried on magnesium sulfate and then concentrated to yield a yellow oil. A trituration of this oil in methanol leads to the isolation of 135 mg of a yellow solid.

reactant | trifluoroacetic acid | 0.539 mmol, 41.5 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium triacetoxyborohydride | 0.611 mmol, 129 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-amine | 0.35 mmol, 100 mg | FC=1C=C(C=C(C1)F)SC=1C=C2C(=NC1)NN=C2N | C12H8F2N4S
reactant | 4-(4-methylpiperazin-1-yl)benzaldehyde | 0.395 mmol, 81 mg | CN1CCN(CC1)C1=CC=C(C=O)C=C1 | C12H16N2O
reactant | trifluoroacetic acid | 125 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium triacetoxyborohydride | 388 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(3,5-difluorophenylthio)-N-(4-(4-methylpiperazin-1-yl)benzyl)-1H-pyrazolo[3,4-b]pyridin-3-amine | FC=1C=C(C=C(C1)F)SC=1C=C2C(=NC1)NN=C2NCC2=CC=C(C=C2)N2CCN(CC2)C | C24H24F2N6S
